Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with history of thyroid cancer s/p 
thyroidectomy (___) and right-sided breast cancer with 4 
positive axillary lymph nodes s/p bilateral mastectomy/adjuvant 
chemoradiation (___), and recently detected pelvic mass 
___ biopsy proven with histological report pending). Now 
presenting with localized intense back pain.

Beginning of ___ pt developed difficulties with urination 
and incontinence. UTI was diagnosed by PCP. Pt states that over 
the next few months she was initiated on several antibiotics for 
presumed UTI and additional medications for presumed spastic 
bladder. 

As symptoms continued pt presented to a urologist who performed 
a cystoscopy (___) indicating a large midline pelvic mass 
posterior to the bladder and bilateral ureteral obstruction. 
Bilateral ureteral stents and indwelling Foley catheter were 
placed. 

Pt seen by Dr. ___ on ___. Follow up findings 
include positive tumor markers (CA ___ and vaginal 
biopsy indicating malignancy with no certain origin. CT scan 
without IV contrast (___) consistent with a left adnexal 
lesion (4 x 3 cm) which abutted the left posterior and superior 
wall of the uterus with myometrial invasion. The mass was 
visualized encased in the left ureter. There was trace ascites 
and lymphadenopathy. The liver was visualized to have multiple 
hypoattenuating lesions and bilateral lobes concerning for  
metastatic disease (~5 cm).

Now pt is presenting with right sided mid back pain. Pt states 
pain started ___ weeks ago at a ___ intensity and has gotten 
worse over the last 4 days to a ___. Pt states pain started 
after an abrupt turn, and since the pain is exclusively 
associated with movements / physical activity. Pain is localized 
(4cm radius), non-radiating, pt cannot say whether deep or 
superficial, and hasn't awoken pt from sleep until two nights 
prior to her admission. Pain has been controlled thus far with 
Tylenol.
 
In the ED:
----------
- Initial vitals: 97.5 89 141/90 18 98% RA 
- Labs were significant for: Cr 1.9 (1.83 on ___, UA with 121 
WBC, mod bacteria, pos nitr.
- Renal US:
 1. Equivocal mild left hydronephrosis. 
 2. Chronic renal disease.
 3. Avascular right hepatic lobe lesions. 
 Consider MRI for further evaluation.
- Pt received: IV CeftriaXONE 1gm, IVF 1000mL NS, IV Morphine 
Sulfate 2mg. 
- Vitals prior to transfer: 98.3 79 123/73 16 100% RA 

On arrival:
-----------
Pt appears well, reports feeling intense right sided mid back 
pain. Pt denies night sweats, fevers of chills, weight changes, 
nausea, vomiting, and abdominal pain. Also denies suprapubic 
pain, hematuria, flank pain, and costovertebral angle 
tenderness.

ROS: 
---- 
No changes in vision or hearing, no changes in balance. No 
cough, no shortness of breath, no dyspnea on exertion. No chest 
pain or palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  
  
 
Past Medical History:
 Breast tumor 
 Hypertension
 Breast cancer
 Thyroid cancer
  
SURGICAL HISTORY:
-----------------
BCC (Right nasolabial fold)
Thyroidectomy
Bilateral mastectomy
 
Social History:
___
Family History:
Pt's father died of esophageal cancer. Pt's mother died of brain 
cancer. A paternal aunt with breast cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: 97.9 149 / 79 74 20 98 RA 
 GEN: Well appearing woman, alert, lying in bed, no acute 
distress  
 HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
 NECK: Supple without LAD. No palpable thyroid tenderness or 
mass. Symmetric.  
 PULM: Clear to auscultation bilaterally. Normal respiratory 
effort.
 CAR: Regular rate and rhythm without murmur. 
 ABD: Soft, non-tender, non-distended  
 GU: Foley catheter in place. 
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII grossly intact, motor function grossly normal  


DISCHARGE PHYSICAL EXAM:  
 VS: 98.3 123 / 76 79 16 94 RA  
 GEN: Well appearing woman, alert, lying in bed, no acute 
distress  
 HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
 NECK: Supple without LAD. No palpable thyroid tenderness or 
mass. Symmetric.  
 PULM: Clear to auscultation bilaterally. Normal respiratory 
effort.
 CAR: Regular rate and rhythm without murmur. 
 ABD: Soft, non-tender, non-distended  
 GU: Foley catheter in place. 
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII grossly intact, motor function grossly normal  

 
Pertinent Results:
SELECTED LABS:
___ 10:09AM BLOOD WBC-6.7 RBC-3.82* Hgb-12.2 Hct-37.2 
MCV-97 MCH-31.9 MCHC-32.8 RDW-13.0 RDWSD-46.5* Plt ___
___ 06:40AM BLOOD WBC-6.4 RBC-3.61* Hgb-11.4 Hct-34.5 
MCV-96 MCH-31.6 MCHC-33.0 RDW-12.8 RDWSD-45.4 Plt ___
___ 10:09AM BLOOD Neuts-70.6 Lymphs-17.6* Monos-6.8 Eos-3.6 
Baso-1.1* Im ___ AbsNeut-4.71 AbsLymp-1.17* AbsMono-0.45 
AbsEos-0.24 AbsBaso-0.07
___ 06:40AM BLOOD ___ PTT-29.9 ___

___ 10:09AM BLOOD Glucose-102* UreaN-28* Creat-1.9* Na-136 
K-4.1 Cl-98 HCO3-24 AnGap-18
___ 06:40AM BLOOD Glucose-87 UreaN-22* Creat-1.7* Na-136 
K-4.1 Cl-99 HCO3-25 AnGap-16
___ 06:40AM BLOOD ALT-24 AST-28 LD(LDH)-220 AlkPhos-144* 
TotBili-0.4
___ 06:40AM BLOOD Albumin-3.9 Calcium-9.4 Phos-3.5 Mg-1.7

IMAGING:
RENAL US ___:
1. Equivocal mild left hydronephrosis. No right hydronephrosis. 
2. Increased cortical echogenicity with decreased 
corticomedullary 
differentiation bilaterally, consistent with chronic renal 
disease. 
3. Incidentally noted indeterminate avascular right hepatic lobe 
lesions.  
Consider MRI for further evaluation. 

 
Brief Hospital Course:
___ with history of resected thyroid cancer, resected breast 
cancer and recently detected pelvic mass, adnexal lesion and 
liver lesions concerning for metastatic disease. She now 
presents with back pain.

# Back pain: 
Appears most likely musculoskeletal as pain was evoked by an 
abrupt turn, is associated with muscle movement, and appears 
localized to thoracic paraspinal muscles. Clinical features are 
less suggestive of bone-related pain / pathologic fracture, 
though malignancy related pain remains on the differential. Pain 
was initially controlled with IV morphine and PO Dilaudid, and 
she was discharged with Tylenol and PO tramadol. She will follow 
up with scheduled chest CT at ___ for further evaluation.

# Bacteruria: 
Appears to be asymptomatic from UTI perspective, and has history 
of multiple possible UTIs treated with antibiotics. A Foley 
catheter was recently placed on ___ s/p cystoscopy. She received 
1g CTX in the ED and antibiotics were subsequently held. Renal 
ultrasound with mild hydronephrosis. ___ consider treatment of 
bacteruria if she develops UTI symptoms or if future urologic 
instrumentation is planned. 

# Pelvic mass / liver metastases:
Recent CT abd/pelvis at ___ supports a pelvic mass as well as 
concern for liver metastases, though study was performed without 
contrast. Preliminary pathology concerning for metastatic breast 
cancer. This was discussed with the patient. She will follow up 
with CT chest at ___ and with Dr. ___ further oncologic 
workup as above.

CHRONIC ISSUES: 
---------------
# CKD / HTN: Cr 1.9 appears consistent with recent baseline in 
setting of postrenal obstruction. Continued amlodipine and 
lisinopril.
# Hypothyroidism: Continued levothyroxine.
# Anxiety: Continued diazepam. 

TRANSITIONAL ISSUES:
- She should continue to follow up with her ___ oncologist Dr. 
___ ongoing workup of her metastatic breast cancer.
- She had bacteruria without clinical UTI. ___ consider 
antibiotic therapy if she develops UTI symptoms or if repeat 
urologic instrumentation is planned.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. Diazepam 5 mg PO QHS:PRN insomnia 
3. Levothyroxine Sodium 137 mcg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 1 
tablet(s) by mouth Every 6 hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice a day 
Disp #*60 Capsule Refills:*0 
3.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg 1 tablet(s) by mouth Three 
times a day Disp #*10 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth Twice a day Disp 
#*60 Tablet Refills:*0 
5.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth Every 6 
hours Disp #*10 Tablet Refills:*0 
6.  Diazepam 5 mg PO QHS:PRN insomnia  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Levothyroxine Sodium 137 mcg PO DAILY  
9.  Lisinopril 40 mg PO DAILY  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Back pain

SECONDARY DIAGNOSIS:
Pelvic mass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___:

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to back pain. You were found to 
have bacteria in the urine but no clear evidence of an active 
urinary tract infection. You received pain medication with 
improvement in your pain. You should follow up with your 
outpatient doctors for further ___ of your cancer as 
previously planned.

It was a pleasure being part of your care,
Your ___ Team.
 
Followup Instructions:
___